US09120817B2
D. (3S,11aR)—N-[(2,4-Difluorophenyl)methyl]-6-hydroxy-3-methyl-5,7-dioxo-2,3,5,7,11,11a-hexahydro[1,3]oxazolo[3,2-a]pyrido[1,2-d]pyrazine-8-carboxamide
Alternatively, the demethylation can be carried out with LiBr: (3S,11aR)—N-[(2,4-Difluorophenyl)methyl]-3-methyl-6-(methyloxy)-5,7-dioxo-2,3,5,7,11,11a-hexahydro[1,3]oxazolo[3,2-a]pyrido[1,2-d]pyrazine-8-carboxamide (8.609 g) was dissolved in THF (90 mL) and LiBr (3.942 g) was added. The mixture was heated to reflux for 12 h and quenched with H2SO4 (0.5 M, 94.467 g). The resultant suspension was stirred at 20° C. for 2 h and filtered. The solid product was re-slurried in water-THF (50 mL-50 mL) at 20° C. for 2 h. The product was collected by filtration, rinsed with water-THF (1-1, 30 mL), and dried under vacuum to afford the product.

reactant | LiBr | [Li+].[Br-]
reactant | (3S,11aR)—N-[(2,4-Difluorophenyl)methyl]-3-methyl-6-(methyloxy)-5,7-dioxo-2,3,5,7,11,11a-hexahydro[1,3]oxazolo[3,2-a]pyrido[1,2-d]pyrazine-8-carboxamide | 8.609 g | FC1=C(C=CC(=C1)F)CNC(=O)C=1C(C(=C2N(C[C@@H]3N(C2=O)[C@H](CO3)C)C1)OC)=O | C20H19F2N3O5
reactant | LiBr | 3.942 g | [Li+].[Br-]
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | (3S,11aR)—N-[(2,4-Difluorophenyl)methyl]-6-hydroxy-3-methyl-5,7-dioxo-2,3,5,7,11,11a-hexahydro[1,3]oxazolo[3,2-a]pyrido[1,2-d]pyrazine-8-carboxamide | FC1=C(C=CC(=C1)F)CNC(=O)C=1C(C(=C2N(C[C@@H]3N(C2=O)[C@H](CO3)C)C1)O)=O | C19H17F2N3O5
